US06664264B2
A round bottom flask was charged with a magnetic stir bar, 4-chloro-3-nitroquinoline (109.70 g, 525.87 mmol) and dichloromethane (500 mL). To the solution was added triethylamine (79.82 g, 788.81 mmol) and 4-amino-1-butanol (46.87 g, 525.87 mmol) to give a homogeneous, dark yellow solution. The reaction was judged to be complete after heating at reflux for 30 minutes. The solution was cooled and then partitioned between chloroform and saturated aqueous ammonium chloride. The layers were separated and the aqueous layer was extracted with chloroform (1×). The organic layers were combined and then concentrated under reduced pressure to afford of 4-[(3-nitroquinolin-4-yl)amino]butan-1-ol (104.67 g, 400.60 mmol) as a dark yellow solid. This material was used without further purification.

reactant | 4-chloro-3-nitroquinoline | 525.87 mmol, 109.70 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | triethylamine | 788.81 mmol, 79.82 g | C(C)N(CC)CC | C6H15N
reactant | 4-amino-1-butanol | 525.87 mmol, 46.87 g | NCCCCO | C4H11NO
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 4-[(3-nitroquinolin-4-yl)amino]butan-1-ol | 400.60 mmol, 104.67 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCCCO | C13H15N3O3
